US06498176B1
6-(Furan-2-yl)oxindole
6-Bromo-oxindole (0.40 g, 1.88 mmol), 2-tributyltinfuran (0.71 mL, 2.26 mmol), and tetraethylammonium chloride hydrate (0.31 g, 1.88 mmol) were combined and dissolved in acetonitrile (15 mL). The palladium catalyst, bistriphenylphosphinedichloropalladium (II) (0.66 g, 0.09 mmol) was added and the reaction was warmed to 85° C. under nitrogen for 20 h. The reaction was cooled to room temperature and diluted with water (15 mL) before passing the mixture through celite. The pad of celite was washed with EtOAc and the filtrates were combined and separated. The aqueous layer was washed with EtOAc (2×20 mL each). The combined organic phases were washed with brine and dried over sodium sulfate. The volatiles ere removed in vacuo. The resulting residue was triturated with diethyl ether and the solid was collected by filtration (0.13 g, 34%). 1H NMR 300 MHz (DMSO-d6) δ 10.5 (s, 1H); 7.75 (s, 1H); 7.30 (m, 2H); 7.11 (s, 1H); 6.91 (m, 1H); 6.60 (m, 1H); 3.52 (s, 2H).

reactant | 6-Bromo-oxindole | 1.88 mmol, 0.40 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | water | 15 mL | O | H2O
catalyst | tetraethylammonium chloride hydrate | 1.88 mmol, 0.31 g | O.[Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | palladium | [Pd] | Pd
catalyst | dichlorobis(triphenylphosphine)palladium | 0.09 mmol, 0.66 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(Furan-2-yl)oxindole | O1C(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C12H9NO2
